US04963590
3-(3,4-Dihydroxy-5-nitrobenzylidene)-2,4-pentanedione
A solution containing 1.83 g of 3,4-dihydroxy-5-nitrobenzaldehyde and 1.00 g of 2,4-pentanedione in 10 ml of tetrahydrofuran was saturated with gaseous hydrogen chloride. After standing over night at 5° C. the product was filtered and washed with ether. Yield 1.2 g (50%), m.p. 175°-178° C.

reactant | 3,4-dihydroxy-5-nitrobenzaldehyde | 1.83 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | 2,4-pentanedione | 1.00 g | CC(CC(C)=O)=O | C5H8O2
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dihydroxy-5-nitrobenzylidene)-2,4-pentanedione | OC=1C=C(C=C(C(C)=O)C(C)=O)C=C(C1O)[N+](=O)[O-] | C12H11NO6
